US04492708
1-isopropyl-2-amino-6-(1-phenyl-2-cyanoethenyl)benzimidazole
Forty millimoles (2.1 ml.) of dry acetonitrile were added to 30 ml. of tetrahydrofuran. A nitrogen blanket was applied and the temperature of the solution lowered to about -78° C. by means of an external acetone/dry ice bath. Twenty-five milliliters of a 1.6M solution of n-butyl lithium were added. After stirring at -78° C. for 30 minutes, a solution of 2.8 g. (10 mmoles) of 1-isopropyl-2-amino-6-benzoylbenzimidazole in 30 ml. of tetrahydrofuran was added. The reaction solution was allowed to warm to about -20° C. and was then stirred for 5 hours at -20° to -5° C. Water and ethyl acetate were then added and the layers were separated. The organic layer was dried over magnesium sulfate, filtered, and evaporated in vacuo. The residue was dissolved in 100 ml. of 98% formic acid. After stirring on a hot water bath for 2.5 hours, the solution was evaporated under reduced pressure. The residue was dissolved in ethyl acetate and washed with a saturated solution of sodium bicarbonate. The organic solution was dried over magnesium sulfate, filtered, and evaporated. The residue was chromatographed over silica gel, eluting first with ethyl acetate to remove non-polar impurities, then with 10% methanol/90% ethyl acetate to elute the title product. The product was further purified by reverse phase chromatography, eluting with 60% aqueous methanol, followed by crystallization from methyl ethyl ketone, resulting in 350 mg. of the title product, M+ =302.

reactant | acetonitrile | Forty millimoles, 2.1 ml | C(C)#N | C2H3N
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 1-isopropyl-2-amino-6-benzoylbenzimidazole | 10 mmoles | C(C)(C)N1C(=NC2=C1C=C(C=C2)C(C2=CC=CC=C2)=O)N | C17H17N3O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 1-isopropyl-2-amino-6-(1-phenyl-2-cyanoethenyl)benzimidazole | C(C)(C)N1C(=NC2=C1C=C(C=C2)C(=CC#N)C2=CC=CC=C2)N | C19H18N4
